US08110614B2
A 500 mL four-necked flask equipped with a reflux condenser, a stirrer, a thermometer, and a nitrogen inlet tube was charged with 28.1 g (0.18 mol) of 1-adamantanol, 15.84 g (0.09 mol) of p-toluenesulfonic acid monohydrate, and 300 mL of heptane and replaced with nitrogen. The mixture was added with 9.9 g (0.09 mol) of resorcinol. The flask was immersed in an oil bath at 100° C. and the mixture was heated while stirring for 1 hour. After cooling the reaction mixture, the solid content was collected by filtration, which was then dried under vacuum, followed by recrystallization by aqueous methanol solution to obtain 4,6-bis(1-adamantyl)-1,3-dihydroxybenzene (yield: 86%, LC (liquid chromatography) purity: 99.7%, melting point: 146° C.). Note that the LC purity was measured by absorbance at λ=280 nm.

reactant | 1-adamantanol | 0.18 mol, 28.1 g | C12(CC3CC(CC(C1)C3)C2)O | C10H16O
reactant | p-toluenesulfonic acid monohydrate | 0.09 mol, 15.84 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | resorcinol | 0.09 mol, 9.9 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | heptane | 300 mL | CCCCCCC | C7H16
product | 4,6-bis(1-adamantyl)-1,3-dihydroxybenzene | yield: 86% | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C(C(=C2)C23CC1CC(CC(C2)C1)C3)O)O | C26H34O2
